US09290494B2
4-(1,3-Dioxolan-2-yl)-4-methylbenzonitrile [ cf. W. Korytnyk, N. Angelino, C. Dave, L. Caballas, J. Med. Chem. 1978, 27, 507-513]:
4-Cyanoacetophenone (5.0 g, 34.4 mmol) was dissolved in toluene (50 mL), had ethylene glycol (3.4 g, 55.1 mmol) and BF3 etherate (0.5 mL) added to it dropwise, was heated on a water separator for 12 h under reflux, allowed to cool to room temperature (yellow reaction solution), had a 5-percent sodium hydrogencarbonate solution (40 mL) added, was extracted with diethyl ether, washed with saturated sodium chloride solution (30 mL), dried over MgSO4, filtered, evaporated under vacuum, and recrystallized from diethyl ether/n-pentane (1:1), Yield: 2.2 g (34%) colorless solid, m.p. 70° C. 1H-NMR (200 MHz, CDCl3, 25° C.): δ=1.62 (s, 3 H, CH3), 3.72-3.75 (m, 2 H, CH2), 4.02-4.08 (m, 2 H, CH2), 7.57-7.64 ppm (m, 4 H, Haryl). HRMS (C11H12NO2): calc. m/z: 190.086, obs. m/z: 190.087, Δ=1 mmu.

reactant | 4-Cyanoacetophenone | 34.4 mmol, 5.0 g | CC(=O)C1=CC=C(C=C1)C#N | C9H7NO
reactant | ethylene glycol | 55.1 mmol, 3.4 g | C(CO)O | C2H6O2
reactant | BF3 | 0.5 mL | B(F)(F)F | BF3
reactant | sodium hydrogencarbonate | 40 mL | C(O)([O-])=O.[Na+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-(1,3-Dioxolan-2-yl)-4-methylbenzonitrile | O1C(OCC1)C1(CC=C(C#N)C=C1)C | C11H13NO2
